US04355040
1.7 g of 4-chloro-1-(3-methoxybenzyl)-2-phenyl-5-cyanomethylimidazole was boiled in a mixed solution of 20 ml of ethanol and 10 ml of 1 N-sodium hydroxide for 10 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was dissolved in 50 ml of water. After washing with 50 ml of chloroform, 10 ml of 1 N-hydrochloric acid was added to the water layer, resulting in the precipitate deposited. The precipitate was dissolved in 20 ml of 90% ethanol, and water was added little by little, thus yielding 1.3 g of 4-chloro-1-(3-methoxybenzyl)-2-phenylimidazole-5-acetic acid as colorless, needle-formed crystals, m.p. 135°-138° C.

reactant | 4-chloro-1-(3-methoxybenzyl)-2-phenyl-5-cyanomethylimidazole | 1.7 g | ClC=1N=C(N(C1CC#N)CC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C19H16ClN3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-chloro-1-(3-methoxybenzyl)-2-phenylimidazole-5-acetic acid | 1.3 g | ClC=1N=C(N(C1CC(=O)O)CC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C19H17ClN2O3
